US07888349B2
Methanesulfonyl chloride (198 mg, 1.73 mmol) was added to a solution of 3,4-dimethyl-7,8,9,10-tetrahydro-6H-pyrido[3′,4′:4,5]imidazo[1,2-a][1,4]diazepin-1-amine dihydrochloride (400 mg, 1.31 mmol) and triethylamine (350 mg, 3.46 mmol) in DMF (250 mL) and stirred overnight at ambient temperature. The reaction mixture was concentrated under reduced pressure and adsorbed onto silica gel. The material was purified by column chromatography on silica gel, concentrated under reduced pressure, dissolved in dimethyl sulfoxide (DMSO), and purified by reverse phase prep HPLC (eluting with 0.5% formic acid in water/0.5% formic acid in acetonitrile in a 10-minute gradient from 5:95 to 95:5) using a HPLC purification system obtained from Shimadzu corporation (based in Kyoto, Japan) to afford 135 mg of 3,4-dimethyl-9-(methylsulfonyl)-7,8,9,10-tetrahydro-6H-pyrido[3′,4′:4,5]imidazo[1,2-a][1,4]diazepin-1-amine. HRMS (EI) calcd for C13H19N5O2S 310.1338, found 310.1346.

reactant | Methanesulfonyl chloride | 1.73 mmol, 198 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3,4-dimethyl-7,8,9,10-tetrahydro-6H-pyrido[3′,4′:4,5]imidazo[1,2-a][1,4]diazepin-1-amine dihydrochloride | 1.31 mmol, 400 mg | Cl.Cl.CC1=C(C2=C(N=C3N2CCCNC3)C(=N1)N)C
reactant | triethylamine | 3.46 mmol, 350 mg | C(C)N(CC)CC | C6H15N
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | 3,4-dimethyl-9-(methylsulfonyl)-7,8,9,10-tetrahydro-6H-pyrido[3′,4′:4,5]imidazo[1,2-a][1,4]diazepin-1-amine | 135 mg | CC1=C(C2=C(N=C3N2CCCN(C3)S(=O)(=O)C)C(=N1)N)C | C13H19N5O2S
